US04587261
Preparation of N-(3,5-dimethoxy-4-ethoxybenzoyl)-N'-[(2-phenylmethylenecyclopentylidene)]-hydrazine
A solution of 30.2 g (0.126 moles) of 3,5-dimethoxy-4-ethoxybenzoic acid hydrazide in 250 cm3 of anhydrous ethanol is added to a solution of 21.8 g (0.126 moles) of 2-phenylmethylenecyclopentan-1-one in 50 cm3 of ethanol. The reaction mixture is boiled for one hour, then cooled. The separated crystals are filtered off and dried. Yield: 39.78 g (80.0%). M.p.: 239°-240° C.

reactant | 3,5-dimethoxy-4-ethoxybenzoic acid hydrazide | 0.126 moles, 30.2 g | COC=1C=C(C(=O)NN)C=C(C1OCC)OC | C11H16N2O4
reactant | 2-phenylmethylenecyclopentan-1-one | 0.126 moles, 21.8 g | C1(=CC=CC=C1)C=C1C(CCC1)=O | C12H12O
solvent | ethanol | 250 cm3 | C(C)O | C2H6O
solvent | ethanol | 50 cm3 | C(C)O | C2H6O
product | N-(3,5-dimethoxy-4-ethoxybenzoyl)-N'-[(2-phenylmethylenecyclopentylidene)]-hydrazine | COC=1C=C(C(=O)NN=C2C(CCC2)=CC2=CC=CC=C2)C=C(C1OCC)OC | C23H26N2O4
